US07888364B2
A solution of N-benzyl-4-(pyridin-2-yl)thiazol-2-amine (60 mg, 0.23 mmol) in DMF (2 mL) was cooled to 0° C. and treated with N-chlorosuccinimide (33 mg, 0.25 mmol), and the reaction mixture was allowed to warm to room temperature. The solvent was evaporated, and the product was purified on reverse phase HPLC to produce N-benzyl-5-chloro-4-(pyridin-2-yl)thiazol-2-amine. MS (Q1) 302.2 (M)+.

reactant | N-benzyl-4-(pyridin-2-yl)thiazol-2-amine | 0.23 mmol, 60 mg | C(C1=CC=CC=C1)NC=1SC=C(N1)C1=NC=CC=C1 | C15H13N3S
reactant | N-chlorosuccinimide | 0.25 mmol, 33 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-benzyl-5-chloro-4-(pyridin-2-yl)thiazol-2-amine | C(C1=CC=CC=C1)NC=1SC(=C(N1)C1=NC=CC=C1)Cl | C15H12ClN3S
